US05489593
5-Methoxy-4,6,7-trimethylindole-2-carboxylic acid (I)
A solution of ethyl 5-methoxy-4,5,7 trimethylindole-2-carboxylate (PREPARATION 19, 1.04 g) in ethanol (30 ml) containing potassium hydroxide (45%, 2.5 ml) is heated under reflux for 1.5 hr. The mixture is acidified with acetic acid (2 ml) and concentrated under reduced pressure. The residue is mixed with water (200 ml) and filtered. The filter cake is washed with water and dried to give the title compound.

reactant | ethyl 5-methoxy-4,5,7 trimethylindole-2-carboxylate | 1.04 g | COC1(C(=C2C=C(N=C2C(=C1)C)C(=O)OCC)C)C | C15H19NO3
reactant | potassium hydroxide | 2.5 ml | [OH-].[K+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Methoxy-4,6,7-trimethylindole-2-carboxylic acid | COC=1C(=C2C=C(NC2=C(C1C)C)C(=O)O)C | C13H15NO3
